US05468748
9H-Indeno[1,2-b]pyrazine-2,3,9(1H,4H)-trione
9H-Indeno[1,2-b]pyrazine-3,9(4H)-dione (20 g, 100.9 mmol), recrystallized from acetic acid, was suspended in a mixture of 135 ml acetic acid and 135 ml acetic anhydride and hydrogen peroxide (9.8 ml, 35%) was added. After stirring overnight another portion (9.8 ml, 35%) of hydrogen peroxide was added. This was repeated five times over a week. The red precipitate was filtered off, washed with acetic acid and water and dried to give 18.5 g (79.6%) of the title compound, which could be further purified by dissolving in aqueous sodium hydroxide and precipitation by hydrochloric acid. M.p. >300° C. 1H-NMR (DMSO-d6, δ): 7.15-7.45 (m, 4H), 12 (s, 1H), 12.8 (s,1H).

reactant | 9H-Indeno[1,2-b]pyrazine-3,9(4H)-dione | 100.9 mmol, 20 g | N=1C2=C(NC(C1)=O)C=1C=CC=CC1C2=O | C11H6N2O2
reactant | hydrogen peroxide | 9.8 ml | OO | H2O2
reactant | hydrogen peroxide | 9.8 ml | OO | H2O2
solvent | acetic acid | 135 ml | C(C)(=O)O | C2H4O2
solvent | acetic anhydride | 135 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 9H-Indeno[1,2-b]pyrazine-2,3,9(1H,4H)-trione | 18.5 g, 79.6% | N1C2=C(NC(C1=O)=O)C=1C=CC=CC1C2=O | C11H6N2O3
